Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1](=[O:2])[CH2:3][c:4]1[cH:5][cH:6][c:7]([O:8][CH2:9][CH2:10][CH2:11][N:12]2[CH2:13][CH2:14][CH2:15][CH2:16][CH2:17][CH2:18]2)[cH:19][cH:20]1.[CH3:21][CH2:22][CH2:23][CH2:24][c:25]1[cH:26][c:27]([N:28]2[CH2:33][CH2:32][NH:31][CH2:30][CH2:29]2)[c:34]2[n:35][c:36]([CH2:37][CH2:38][C:39](=[O:40])[O:41][CH3:42])[cH:43][cH:44][c:45]2[cH:46]1>>[C:1](=[O:2])([CH2:3][c:4]1[cH:5][cH:6][c:7]([O:8][CH2:9][CH2:10][CH2:11][N:12]2[CH2:13][CH2:14][CH2:15][CH2:16][CH2:17][CH2:18]2)[cH:19][cH:20]1)[N:31]1[CH2:30][CH2:29][N:28]([c:27]2[cH:26][c:25]([CH2:24][CH2:23][CH2:22][CH3:21])[cH:46][c:45]3[c:34]2[n:35][c:36]([CH2:37][CH2:38][C:39](=[O:40])[O:41][CH3:42])[cH:43][cH:44]3)[CH2:33][CH2:32]1,[CH3:21][CH2:22][CH2:23][CH2:24][c:25]1[cH:26][c:27]([N:28]2[CH2:29][CH2:30][NH:31][CH2:32][CH2:33]2)[c:34]2[n:35][c:36]([CH2:37][CH2:38][C:39](=[O:40])[O:41][CH3:42])[cH:43][cH:44][c:45]2[cH:46]1.[OH:101][C:1](=[O:2])[CH2:3][c:4]1[cH:5][cH:6][c:7]([O:8][CH2:9][CH2:10][CH2:11][N:12]2[CH2:13][CH2:14][CH2:15][CH2:16][CH2:17][CH2:18]2)[cH:19][cH:20]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([CH2:3][c:4]1[cH:5][cH:6][c:7]([O:8][CH2:9][CH2:10][CH2:11][N:12]2[CH2:13][CH2:14][CH2:15][CH2:16][CH2:17][CH2:18]2)[cH:19][cH:20]1)[N:31]1[CH2:30][CH2:29][N:28]([c:27]2[cH:26][c:25]([CH2:24][CH2:23][CH2:22][CH3:21])[cH:46][c:45]3[c:34]2[n:35][c:36]([CH2:37][CH2:38][C:39](=[O:40])[O:41][CH3:42])[cH:43][cH:44]3)[CH2:33][CH2:32]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (31, 1), ([1, 2], 2), (303, 31.1), ([31.1, 31], 31), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CCO[C:1](=[O:2])[c:3]1[n:4][n:5][c:6]([Cl:7])[cH:8][c:9]1[NH:10][c:11]1[cH:12][cH:13][cH:14][c:15](-[n:16]2[n:17][cH:18][cH:19][n:20]2)[n:21]1.[NH3:22]>>[C:1](=[O:2])([c:3]1[n:4][n:5][c:6]([Cl:7])[cH:8][c:9]1[NH:10][c:11]1[cH:12][cH:13][cH:14][c:15](-[n:16]2[n:17][cH:18][cH:19][n:20]2)[n:21]1)[NH2:22],CC[O:101][C:1](=[O:2])[c:3]1[n:4][n:5][c:6]([Cl:7])[cH:8][c:9]1[NH:10][c:11]1[cH:12][cH:13][cH:14][c:15](-[n:16]2[n:17][cH:18][cH:19][n:20]2)[n:21]1.[NH3:22]>>[C:1](=[O:2])([c:3]1[n:4][n:5][c:6]([Cl:7])[cH:8][c:9]1[NH:10][c:11]1[cH:12][cH:13][cH:14][c:15](-[n:16]2[n:17][cH:18][cH:19][n:20]2)[n:21]1)[NH2:22],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(22, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH:1]1[CH2:2][CH2:3][CH2:4][CH2:5]1.[CH3:6][O:7][c:8]1[cH:9][cH:10][c:11]([C:12](=[O:13])[CH2:14][CH2:15][C:16](=[O:17])[OH:18])[cH:19][c:20]1[OH:21]>>[CH:1]1([O:21][c:20]2[c:8]([O:7][CH3:6])[cH:9][cH:10][c:11]([C:12](=[O:13])[CH2:14][CH2:15][C:16](=[O:17])[OH:18])[cH:19]2)[CH2:2][CH2:3][CH2:4][CH2:5]1,[CH3:6][O:7][c:8]1[cH:9][cH:10][c:11]([C:12](=[O:13])[CH2:14][CH2:15][C:16](=[O:17])[OH:18])[cH:19][c:20]1[OH:21].[Br:101][CH:1]1[CH2:2][CH2:3][CH2:4][CH2:5]1>>[CH:1]1([O:21][c:20]2[c:8]([O:7][CH3:6])[cH:9][cH:10][c:11]([C:12](=[O:13])[CH2:14][CH2:15][C:16](=[O:17])[OH:18])[cH:19]2)[CH2:2][CH2:3][CH2:4][CH2:5]1,SN1,"[([1, 101], 101), (21, 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH:1]([CH3:2])[CH3:3].[CH3:4][O:5][C:6]1([c:7]2[cH:8][c:9]([F:10])[cH:11][c:12]([F:13])[cH:14]2)[CH2:15][CH2:16][NH:17][CH2:18]1>>[CH:1]([CH3:2])([CH3:3])[N:17]1[CH2:16][CH2:15][C:6]([O:5][CH3:4])([c:7]2[cH:8][c:9]([F:10])[cH:11][c:12]([F:13])[cH:14]2)[CH2:18]1,[CH3:4][O:5][C:6]1([c:7]2[cH:8][c:9]([F:10])[cH:11][c:12]([F:13])[cH:14]2)[CH2:15][CH2:16][NH:17][CH2:18]1.[Br:101][CH:1]([CH3:2])[CH3:3]>>[CH:1]([CH3:2])([CH3:3])[N:17]1[CH2:16][CH2:15][C:6]([O:5][CH3:4])([c:7]2[cH:8][c:9]([F:10])[cH:11][c:12]([F:13])[cH:14]2)[CH2:18]1,SN2,"[(17, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
